US08349824B2
A mixture of 1-methyl-5-(2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (150 mg, 422 μmol), morpholine (368 μl, 4.22 mmol), propylphosphonic anhydride (50% in ethyl acetate, 622 μl, 1.06 mmol) and N,N-diisopropylethylamine (215 μl, 1.27 mmol) in tetrahydrofuran (6 ml) was stirred for 18 hours at 70° C. The solvent was evaporated, the residue was triturated with sodium hydrogencarbonate solution. The mixture was extracted with ethyl acetate, washed with water. The organic layer was separated, dried over magnesium sulfate, filtrated and evaporated affording 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (109 mg, 60.8%) as a light yellow solid. mp: 194-197° C., MS: m/z=425.3 (M+H+).

reactant | 1-methyl-5-(2-(pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 422 μmol, 150 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)N2CCCC2)=O)C(=O)O | C16H17N7O3
reactant | morpholine | 4.22 mmol, 368 μl | N1CCOCC1 | C4H9NO
reactant | propylphosphonic anhydride | 1.06 mmol, 622 μl | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 1.27 mmol, 215 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 109 mg, 60.8% | N1(CCCC1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1 | C20H24N8O3
